US07115611B2
To a dry-ice cooled solution of 4.9 g (13.83 mmol) 4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester in 50 ml tetrahydrofurane was dropped 34.57 ml (41.48 mmol) of DIBALH-solution (1.2 M in Toluene). The reaction mixture was stirred for 15 min at −70° C. and then the dry-ice bath was removed, the reaction temperature was allowed to come to RT and the reaction mixture was stirred for 2 h at RT. To the reaction mixture was then dropped carefully, under ice-cooling, 10 ml of 6N HCl. After 4 min was the whole taken up in ether and washed with water. The ether-phase was concentrated under reduced pressure providing 4.67 g pure crystalline [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol.

reactant | dry-ice | C(=O)=O | CO2
reactant | 4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester | 13.83 mmol, 4.9 g | COC(=O)C=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC | C17H17F3N2O3
reactant | DIBALH | 41.48 mmol, 1.2 M, 34.57 ml | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 4.67 g | COCCC1=NC(=NC(=C1CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H17F3N2O2
